US05219871
Preparation of 2,2-diphenyl-5-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]-5-methylhexanamide
A mixture containing 2,2-diphenyl-5-methyl-5-methylaminohexanamide (0.5 g-see Preparation 13), 3,4-methylenedioxyphenethyl bromide (0.38 g), anhydrous potassium carbonate (0.8 g) and acetonitrile (10 ml) was heated under reflux for 5.5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give an oil which solidified on standing. The solid was recrystallised from ethanol to give the title compound as colourless needles, yield 0.09 g, m.p. 165° (softens at 45°).

reactant | 2,2-diphenyl-5-methyl-5-methylaminohexanamide | 0.5 g | C1(=CC=CC=C1)C(C(=O)N)(CCC(C)(NC)C)C1=CC=CC=C1 | C20H26N2O
reactant | 3,4-methylenedioxyphenethyl bromide | 0.38 g | C1OC=2C=C(CCBr)C=CC2O1 | C9H9BrO2
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]-5-methylhexanamide | C1(=CC=CC=C1)C(C(=O)N)(CCC(C)(C)N(C)CCC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C29H34N2O3
